US04066772
A mixture of 5 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 3.7 parts of sodium carbonate and 200 parts of 4-methyl-2-pentanone is stirred and refluxed with water-separator. Then there are added 4.8 parts of 1-(3-bromopropyl)-1H-benzotriazole and stirring is continued overnight at reflux temperature. The reaction mixture is cooled, water is added and the undissolved product is filtered off and set aside. The organic phase is separated from the filtrate, dried, filtered and evaporated. The residue is combined with the undissolved product (see above) and purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 2 parts (25%) of 1-{1-[3-H-benzotriazol-1-yl)propyl]-4-piperidinyl}-5-chloro-1,3-dihydro-2H-benzimidazol-2-one; mp. 203.4° C.

reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | 1-(3-bromopropyl)-1H-benzotriazole | BrCCCN1N=NC2=C1C=CC=C2 | C9H10BrN3
solvent | water | O | H2O
product | 5-chloro-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(NC(N2)=O)C=C1 | C7H5ClN2O
